US04923868
8-Fluoro-9-(4-methyl-1-piperazinyl)-6-oxo-6H-benzo[c]quinolizine-5-carboxylic acid
A mixture of 0.38 g of ethyl 8-fluoro-9-(4-methyl-1-piperazinyl)-6-oxo-6H-benzo[c]quinolizine, 25 ml of 0.1N sodium hydroxide and 5 ml of ethyl alcohol was refluxed for 18 hours. The mixture was cooled to room temperature and the pH adjusted to 6 with acetic acid. Most of the volatiles were removed under vacuum to give 0.31 g of water washed and dried desired product, mp 264°-266° C.

reactant | ethyl 8-fluoro-9-(4-methyl-1-piperazinyl)-6-oxo-6H-benzo[c]quinolizine | 0.38 g | C(C)C=1N2C3=C(C(C=C2C=CC1)=O)C=C(C(=C3)N3CCN(CC3)C)F | C20H22FN3O
reactant | sodium hydroxide | 0.1N, 25 ml | [OH-].[Na+]
reactant | ethyl alcohol | 5 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Fluoro-9-(4-methyl-1-piperazinyl)-6-oxo-6H-benzo[c]quinolizine-5-carboxylic acid | FC=1C(=CC2=C(C(C(=C3C=CC=CN23)C(=O)O)=O)C1)N1CCN(CC1)C | C19H18FN3O3
